US07851626B2
rac-2-{4-[(4S*,5R*)-4,5-Bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl]-piperazin-1-yl}-acetamide
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with 2-piperazin-1-yl-acetamide dihydrochloride (Matrix Scientific) to give the title compound. LC-MS: 638.2 [(M+H)+]

reactant | rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl chloride | ClC1=CC=C(C=C1)C1(N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)Cl)C1=C(C=C(C=C1)OC)OC(C)C)C | C27H25Cl3N2O3
reactant | 2-piperazin-1-yl-acetamide dihydrochloride | Cl.Cl.N1(CCNCC1)CC(=O)N
product | rac-2-{4-[(4S*,5R*)-4,5-Bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl]-piperazin-1-yl}-acetamide | ClC1=CC=C(C=C1)[C@@]1(N=C(N([C@@H]1C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)CC(=O)N)C1=C(C=C(C=C1)OC)OC(C)C)C | C33H37Cl2N5O4
